US07642380B2
(3) Synthesis of 2,8-dimethoxychrysene
Under an argon gas flow, 70 g (0.24 mol) of 2,8-dimethoxy-5,6,11,12-tetrahydrochrysene and 50 g of Pd/C were charged into a 5 L round bottom flask equipped with a condenser, and heated at 200° C. for 1 h. Thereafter, the obtained reaction mixture was heated to 300° C. and sublimated. The resultant reaction product was recrystallized with acetic acid, thereby obtaining 24 g of the aimed product (yield: 35%).

reactant | 2,8-dimethoxy-5,6,11,12-tetrahydrochrysene | 0.24 mol, 70 g | COC1=CC=2CCC=3C4=CC=C(C=C4CCC3C2C=C1)OC | C20H20O2
catalyst | Pd/C | 50 g | [Pd] | Pd
product | 2,8-dimethoxychrysene | 24 g, yield: 35% | COC1=CC=2C=CC3=C4C=CC(=CC4=CC=C3C2C=C1)OC | C20H16O2
